US07834049B2
7-Amino-4-bromoisoquinoline
66 mg (0.26 mmol) of 7-nitro-4-bromoisoquinoline was dissolved in 1 ml of ethanol, 2 ml of tetrahydrofuran and 1 ml of water. To the mixture were added 70 mg of an iron powder and 140 mg of ammonium chloride, followed by heating at 50° C. for 3 hours. A 1N aqueous sodium hydroxide was added to the reaction solution, and the mixture was extracted with chloroform. The organic layer was dried over magnesium sulfate and concentrated. The resulting residue was crystallized from isopropyl ether, to give 33 mg of the title compound.

reactant | 7-nitro-4-bromoisoquinoline | 0.26 mmol, 66 mg | [N+](=O)([O-])C1=CC=C2C(=CN=CC2=C1)Br | C9H5BrN2O2
reactant | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
reactant | ammonium chloride | 140 mg | [Cl-].[NH4+]
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | ethanol | 1 ml | C(C)O | C2H6O
catalyst | iron | 70 mg | [Fe] | Fe
solvent | water | 1 ml | O | H2O
product | 7-Amino-4-bromoisoquinoline | 33 mg | NC1=CC=C2C(=CN=CC2=C1)Br | C9H7BrN2
